US06596730B1
3-((E)-3-Furan-2-yl-allanoyl)-4-methoxy-benzoic Acid (D7)
((E)-3-Furan-2-yl-allanoyl)-4-methoxy-benzoic acid—((E)-3-Furan-2-yl-allanoyl)-4-methoxy-benzoic acid ethyl ester (0.047 g) in methanol (5 ml) containing 2N sodium hydroxide (1 ml) was heated at 50° C. for 15 min. Solvent volume was reduced to 1 ml and acidified with 2N hydrochloric acid. After diluting with water (10 ml) the preciptated product (20 mg) was collected by filtration. 1H NMR (CDCl3) δ: 6.51 (1H, d), 6.69 (1H, m), 7.06 (1H, d, J=8.8 Hz), 7.19 (1H, d, J=15.6 Hz), 7.40 (1H, d, J=15.6 Hz), 7.52 (1H, s), 8.21 (1H, d, J=8.4 Hz), 8.34 (1H, s).

reactant | ((E)-3-Furan-2-yl-allanoyl)-4-methoxy-benzoic acid ((E)-3-Furan-2-yl-allanoyl)-4-methoxy-benzoic acid ethyl ester | 0.047 g | O1C(=CC=C1)/C=C/C(=O)C1=C(C(=O)O)C=CC(=C1)OC.C(C)OC(C1=C(C=C(C=C1)OC)C(\C=C\C=1OC=CC1)=O)=O
reactant | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 3-((E)-3-Furan-2-yl-allanoyl)-4-methoxy-benzoic Acid | O1C(=CC=C1)/C=C/C(=O)C=1C=C(C(=O)O)C=CC1OC | C15H12O5
